US08026237B2
To a suspension of 2,5-dimethyl-1-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (4-sulfamoyl-phenyl)-amide (83 mg, 0.19 mmol) and K2CO3 (34 mg) in anhyd DMF (0.5 mL) was added ethyl iodide (15 μL, 0.19 mmol). After 19h additional ethyl iodide (10 μL) was added. After 23 h total the reaction mixture was concentrated to dryness in vacuo. The residue was purified by reverse-phase HPLC to yield 2,5-dimethyl-1-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (4-ethylsulfamoyl-phenyl)-amide (17 mg, 19%) as a colorless powder; 1H NMR (DMSO-d6): δ 9.7 (s, 1H), 7.90 (d, J=8 Hz, 1H), 7.85 (d, J=8 Hz, 2H), 7.81 (t, J=8 Hz, 1H), 7.70 (t, J=8 Hz, 1H), 7.60 (d, J=8 Hz, 2H), 7.39 (d, J=8 Hz, 1H), 7.28 (d, J=8 Hz, 1H), 6.54 (s, 1H), 2.66 (quintet, J=7 Hz, 2H), 2.03 (s, 3H), 1.77 (s, 3H), 0.86 (t, J=7 Hz, 3H); MS (ESI) m/z 466 [M+H]+. Also recovered from the reaction was dimethyl-1-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (4-diethylsulfamoyl-phenyl)-amide (12 mg, 13%) as a colorless solid; 1H NMR (DMSO-d6): δ 9.9 (s, 1H), 8.11 (d, J=8 Hz, 1H), 8.08 (d, J=7 Hz, 2H), 8.04 (t, J=8 Hz, 1H), 7.92 (t, J=8 Hz, 1H), 7.82 (d, J=7 Hz, 2H), 7.60 (d, J=8 Hz, 1H), 6.77 (s, 1H), 3.25 (q, J=7 Hz, 4H), 2.24 (s, 3H), 1.99 (s, 3H), 1.45 (t, J=7 Hz, 6H); MS (ESI) m/z 494 [M+H]+.

reactant | 2,5-dimethyl-1-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (4-sulfamoyl-phenyl)-amide | 0.19 mmol, 83 mg | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C=CC=C1)C(F)(F)F)C | C20H18F3N3O3S
reactant | K2CO3 | 34 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 0.19 mmol, 15 μL | C(C)I | C2H5I
reactant | ethyl iodide | 10 μL | C(C)I | C2H5I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2,5-dimethyl-1-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (4-ethylsulfamoyl-phenyl)-amide | 17 mg, 19% | C(C)NS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C=CC=C1)C(F)(F)F)C | C22H22F3N3O3S
